Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.8696643288900003
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[O:5],0.520535606192
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-6.04940954492
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],6.15752441
[C:1][H:4].[C:2]#[C:3]>>[C:1][C:2]#[C:3][H:4],-9.06705691857
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.52828102368
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][H:9],1.18835655545
[C:3](#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-4.36457661341
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11]>>[C:9][O:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8],7.012854637689999
[H:1][C:2]=[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2],7.28669959604
[C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3](=[C:4][H:5])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.27157698251
[C:12]([H:13])([H:14])[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.43102316802
[H:12].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.01043831538
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.19016471583
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[O:11][H:12]>>[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4],-1.10268778054
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:10]([H:11])[H:12].[O:7][O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])[H:12],0.0110017469296999
[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.99214191228
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[H:6].[O:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[H:9],3.58671487763
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-0.711273140002
[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-7.65654912392
[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-3.74509656181
[H:1][C:2]#[C:3][C:4]#[C:5][O:6][H:7]>>[C:3]#[C:4][C:5][O:6][H:7].[H:1][C:2],9.52646983899
[C:7]([H:8])[H:9].[H:1][O:2][C:3]#[C:4][O:5][H:6]>>[H:1][O:2][C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-4.98029309361
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3][H:4],0.940004560002
[C:1].[C:2]([H:3])([H:4])[O:5][H:6]>>[C:1][C:2]([H:3])([H:4])[O:5][H:6],-3.63401758724
[H:1][C:2][C:14]([C:11]([C:8]([C:5]([C:3][H:4])([H:6])[H:7])([H:9])[H:10])([H:12])[H:13])([H:15])[H:16]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16],-8.0971196
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:14],1.97452595232
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:9][H:10].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-3.88050129809
[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:12]=[C:13]([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-1.74542943757
[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-0.798834194009
